US07838498B2
Preparation of (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethyl)phenyl)tetrahydro-2H-pyran (Intermediate AJ)
The solution of 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenethyl methanesulfonate (58 mg, 0.066 mmol) in 0.8 mL of 1.5 M CF3CH2ONa in CF3CH2OH was stirred at 60° C. under argon. After it was stirred for about 9 h, an additional 0.6 mL of 1.5 M of CF3CH2ONa in CF3CH2OH was added and the mixture was stirred for another 15 h at 60° C. After removal of the volatiles with a rotary evaporator under vacuum, the residue was partitioned between water and EtOAC. The organic layer was separated, washed with brine and dried over Na2SO4. Concentration gave the crude product, which was purified by preparative TLC to yield 30 mg of title compound. MS ESI (m/z) 896 (M+NH4)+, calc. 878.

reactant | 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenethyl methanesulfonate | 0.066 mmol, 58 mg | CS(=O)(=O)OCCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C52H55ClO8S
reactant | CF3CH2ONa | 1.5 M, 0.8 mL | C(F)(F)(F)CO[Na]
reactant | CF3CH2ONa | 1.5 M, 0.6 mL | C(F)(F)(F)CO[Na]
solvent | CF3CH2OH | C(F)(F)(F)CO | C2H3F3O
product | (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethyl)phenyl)tetrahydro-2H-pyran | 30 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)CCOCC(F)(F)F)COCC1=CC=CC=C1 | C53H54ClF3O6
